US04329347
6-[4-(4-Fluorophenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 1 from 6-(4-bromo-butoxy)-3,4-dihydro-carbostyril (m.p. 142°-147° C.) and 4-fluorothiophenol.

reactant | 6-(4-bromo-butoxy)-3,4-dihydro-carbostyril | BrCCCCOC=1C=C2CCC(NC2=CC1)=O | C13H16BrNO2
reactant | 4-fluorothiophenol | FC1=CC=C(C=C1)S | C6H5FS
product | 6-[4-(4-Fluorophenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril | FC1=CC=C(C=C1)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C19H20FNO2S
